US04223035
4-(10-ethyl-9,10-dihydro-4H-benzo[4,5]-cyclohepta[1,2-b]thiophen-4-ylidene)-1-methylpiperidine
A solution of 15.0 g of 10-ethyl-9,10-dihydro-4-(1-methyl-4-piperidyl)-4H-benzo[4,5]cyclohepta-[1,2-b]thiophen-4-ol in 450 cc of a 3.5 N solution of hydrogen chloride in isopropanol is heated to the boil for 4 hours, and the title compound obtained after working up the reaction mixture is converted into the hydrogen fumarate form thereof. M.P. 220°-221° (from methanol/ethanol).

reactant | 10-ethyl-9,10-dihydro-4-(1-methyl-4-piperidyl)-4H-benzo[4,5]cyclohepta-[1,2-b]thiophen-4-ol | 15.0 g | C(C)C1CC2=C(C(C3=C1SC=C3)(O)C3CCN(CC3)C)C=CC=C2 | C21H27NOS
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(10-ethyl-9,10-dihydro-4H-benzo[4,5]-cyclohepta[1,2-b]thiophen-4-ylidene)-1-methylpiperidine | C(C)C1CC2=C(C(C3=C1SC=C3)=C3CCN(CC3)C)C=CC=C2 | C21H25NS
